US04971959
Methyl 9-(3-cyclopentoxy-4-methoxyphenyl)-2,4,6,8-E,E,E,E-nonatetraenoate
To a stirred suspension of 0.13 g (2.71 mmol) of a 50% oil suspension of sodium hydride (previously washed with three, 3 mL portions of hexane) in 50 mL of dry tetrahydrofuran under a nitrogen atmosphere was added dropwise at room temperature 0.33 mL (2.04 mmol) of trimethylphosphonoacetate in 20 mL of dry tetrahydrofuran over a 5 minute period. The white suspension was stirred for an additional 2 hours after which time 0.40 g (1.34 mmol) of 7-(3-cyclopentoxy-4-methoxyphenyl)-2,4,6-E,E,E-heptatriene-1-aldehyde in 20 mL of dry tetrahydrofuran was added dropwise over a 5 minute period. The final reaction mixture was stirred for an additional 2 hours after which time the mixture was quenched with 50 mL of saturated sodium chloride. The mixture was extracted with three, 50 mL portions of ethyl acetate and the combined organic fractions were washed with 50 mL of saturated sodium chloride, dried over sodium sulfate and concentrated. Liquid chromatography of the crude product over 100 g of silica gel eluting with 10% ethyl acetate in hexane provided the desired, analytically pure yellow oil.

reactant | sodium hydride | [H-].[Na+]
reactant | trimethylphosphonoacetate | 2.04 mmol, 0.33 mL | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 7-(3-cyclopentoxy-4-methoxyphenyl)-2,4,6-E,E,E-heptatriene-1-aldehyde | 1.34 mmol, 0.40 g | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C/C=C/C=C/C=O | C19H22O3
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Methyl 9-(3-cyclopentoxy-4-methoxyphenyl)-2,4,6,8-E,E,E,E-nonatetraenoate | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C/C=C/C=C/C=C/C(=O)OC | C22H26O4
